US08114886B2
To a solution of O-ethyl S-[6-(trifluoromethyl)pyridin-3-yl]dithiocarbonate (2.67 g, 10.0 mmol) in ethanol (30 ml), 1 N aqueous sodium hydroxide (30 ml) was added, and the resulting mixture was stirred for 2 hours at 50° C. The reaction mixture was cooled to room temperature, and washed with methylene chloride. Subsequently, the aqueous layer was acidified with 1 N hydrochloric acid, and was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure, to obtain 6-(trifluoromethyl)pyridin-3-thiol as a crude product.

reactant | O-ethyl S-[6-(trifluoromethyl)pyridin-3-yl]dithiocarbonate | 10.0 mmol, 2.67 g | FC(C1=CC=C(C=N1)[SH-]C(OCC)=S)(F)F
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N, 30 ml | [OH-].[Na+]
product | 6-(trifluoromethyl)pyridin-3-thiol | FC(C1=CC=C(C=N1)S)(F)F | C6H4F3NS
